US05101036
23.4 g (0.1 mol) of the Schiff base of D-valine and anisaldehyde prepared according to Ia) was dissolved, with stirring, in 130 ml of dry dichloromethane. The solution was cooled to 5° C. or lower. The stirring was continued and the temperature was allowed to rise to room temperature, after which the stirring was continued for 4 more hours. After about 0.5 hour's stirring at room temperature the mixture became turbid as a result of the crystallization of meta-chlorobenzoic acid. After the reaction, in which all the meta-chlorobenzoic acid formed crystallized, the reaction mixture was filtered and the filtered solution was evaporation until dry.

reactant | D-valine | N[C@H](C(C)C)C(=O)O | C5H11NO2
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | dichloromethane | 130 ml | ClCCl | CH2Cl2
product | meta-chlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
